US06350749B1
A solution of 5-(2-chlorophenyl)-2-(1-hydroxyethylidene)cyclohexane-1,3-dione (1.0 g) and phenylhydrazine (0.43 g) in ethanol (20 ml) was refluxed for 2 hours. Under reduced pressure, the solvent was evaporated, and the resulting crystals were recrystallized from ethyl acetate-hexane to give 6-(2-chlorophenyl)-3-methyl-2-phenyl-4,5,6,7-tetrahydroindazol-4-one (0.97 g) as colorless crystals.

reactant | 5-(2-chlorophenyl)-2-(1-hydroxyethylidene)cyclohexane-1,3-dione | 1.0 g | ClC1=C(C=CC=C1)C1CC(C(C(C1)=O)=C(C)O)=O | C14H13ClO3
reactant | phenylhydrazine | 0.43 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(2-chlorophenyl)-3-methyl-2-phenyl-4,5,6,7-tetrahydroindazol-4-one | 0.97 g | ClC1=C(C=CC=C1)C1CC(C2=C(N(N=C2C1)C1=CC=CC=C1)C)=O | C20H17ClN2O
